US08293768B2
Ethyl 5-amino-3-methylthiophene-2-carboxylate hydrochloride (5.80 g, 26.2 mmol) was suspended in dichloromethane (200 mL). To the suspension was added saturated aqueous sodium bicarbonate solution (250 mL). The resulting mixture was stirred for 15 minutes, then the two layers were separated. The aqueous layer was extracted with dichloromethane (100 mL). The combined organic layer was dried over sodium sulphate, filtered and concentrated in vacuo to afford ethyl 5-amino-3-methylthiophene-2-carboxylate (4.75 g, 98%).

reactant | Ethyl 5-amino-3-methylthiophene-2-carboxylate hydrochloride | 26.2 mmol, 5.80 g | Cl.NC1=CC(=C(S1)C(=O)OCC)C
reactant | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | ethyl 5-amino-3-methylthiophene-2-carboxylate | 4.75 g, 98% | NC1=CC(=C(S1)C(=O)OCC)C | C8H11NO2S
